US08980911B2
To the stirred solution of methyl 3,5-dichloro-4-({4-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[3,2-c]pyridin-1-yl}carbonyl)benzoate (500 mg, 1.1 mmol) in tetrahydrofuran and water (1:1, 5 mL) was added sodium hydroxide (46 mg, 1.1 mmol). The reaction mixture was stirred at room temperature for about 1 hour. The reaction mixture was then concentrated under vacuum and the aquoeus residue was neutralized using dilute hydrochloric acid. The precipitated solid was filtered, washed with water and dried to afford 3,5-dichloro-4-{[4-(cyclopropylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-1-yl]carbonyl}benzoic acid (470 m g, 97%) as an off-white solid.

reactant | methyl 3,5-dichloro-4-({4-[(cyclopropylcarbonyl)amino]-1H-pyrrolo[3,2-c]pyridin-1-yl}carbonyl)benzoate | 1.1 mmol, 500 mg | ClC=1C=C(C(=O)OC)C=C(C1C(=O)N1C=CC=2C(=NC=CC21)NC(=O)C2CC2)Cl | C20H15Cl2N3O4
reactant | sodium hydroxide | 1.1 mmol, 46 mg | [OH-].[Na+]
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 3,5-dichloro-4-{[4-(cyclopropylcarbonyl)-1H-pyrrolo[3,2-c]pyridin-1-yl]carbonyl}benzoic acid | 97% | ClC=1C=C(C(=O)O)C=C(C1C(=O)N1C=CC=2C(=NC=CC21)C(=O)C2CC2)Cl | C19H12Cl2N2O4
